** sch_path: /home/wsl_rks/Designs/redesign_Floating_Gate_Driver_2025/ALL_Floating_Gate/Sch/Floating_gate_driver/LS_boot_ihp_estable.sch
.subckt LS_boot_ihp_estable

I0 VBAT net7 50u
V4 net10 GND PULSE(0 {VL} 15n 1n 1n 50n 100n)
V1 VBAT GND {VM}
V2 net6 GND {VH}
R38 GND vsource {RL} m=1
M1 RESET SET Vboot Vboot sg13_hv_pmos w=5u l=1u ng=1 m=1
M2 SET SET Vboot Vboot sg13_hv_pmos w=0.5u l=1u ng=1 m=1
M3 SET RESET Vboot Vboot sg13_hv_pmos w=5u l=1u ng=1 m=1
M4 RESET RESET Vboot Vboot sg13_hv_pmos w=0.5u l=1u ng=1 m=1
M5 net1 RESET Vboot Vboot sg13_hv_pmos w=1u l=0.5u ng=1 m=1
M6 SET SET net1 net1 sg13_hv_pmos w=1u l=0.5u ng=1 m=1
M7 net3 SET Vboot Vboot sg13_hv_pmos w=1u l=0.5u ng=1 m=1
M8 RESET RESET net3 net3 sg13_hv_pmos w=1u l=0.5u ng=1 m=1
M9 net2 VRE SET net2 sg13_hv_nmos w=6u l=0.5u ng=1 m=5
M10 net2 VFE RESET net2 sg13_hv_nmos w=6u l=0.5u ng=1 m=5
M11 GND net7 net7 GND sg13_hv_nmos w=10u l=2u ng=1 m=20
M12 GND net7 net2 GND sg13_hv_nmos w=10u l=2u ng=1 m=20
M13 net4 net5 Vboot Vboot sg13_hv_pmos w=1u l=0.5u ng=1 m=1
M14 net5 net4 Vboot Vboot sg13_hv_pmos w=3u l=0.5u ng=1 m=1
M15 TRIG net5 Vboot Vboot sg13_hv_pmos w=3u l=0.5u ng=1 m=65
M16 vsource Q net4 vsource sg13_hv_nmos w=3u l=0.5u ng=1 m=1
M17 vsource QN net5 vsource sg13_hv_nmos w=3u l=0.5u ng=1 m=1
M18 vsource net5 TRIG vsource sg13_hv_nmos w=3u l=0.5u ng=1 m=24
M19 vsource TRIG net6 vsource sg13_hv_nmos w=4.38u l=0.5u ng=1 m=2520
M20 Q RESET Vboot Vboot sg13_hv_pmos w=0.5u l=3u ng=1 m=10
M21 Q QN Vboot Vboot sg13_hv_pmos w=0.5u l=3u ng=1 m=10
M22 net13 RESET Q vsource sg13_hv_nmos w=0.5u l=3u ng=1 m=10
M23 vsource QN net13 vsource sg13_hv_nmos w=0.5u l=3u ng=1 m=10
M24 QN Q Vboot Vboot sg13_hv_pmos w=0.5u l=3u ng=1 m=10
M25 QN SET Vboot Vboot sg13_hv_pmos w=0.5u l=3u ng=1 m=10
M26 net14 Q QN vsource sg13_hv_nmos w=0.5u l=3u ng=1 m=10
M27 vsource SET net14 vsource sg13_hv_nmos w=0.5u l=3u ng=1 m=10
x1 net9 net10 VDD VSS sg13g2_inv_1
x2 predly net9 VDD VSS sg13g2_inv_1
x3 net11 predly VDD VSS sg13g2_inv_1
x4 net12 predly VDD VSS sg13g2_inv_1
x5 dly8 net11 VDD VSS sg13g2_inv_1
x6 net8 dly8 VDD VSS sg13g2_inv_1
x7 VFE net12 dly8 VDD VSS sg13g2_and2_1
x8 VRE net8 predly VDD VSS sg13g2_and2_1
C2 dly8 GND cap_cmim w=80.0e-6 l=40.0e-6 m=3
C1 Vboot vsource cap_cmim w=100.0e-6 l=42.0e-6 m=56
M28 VBAT VBAT Vboot VBAT sg13_hv_nmos w=6u l=0.5u ng=1 m=5
**** begin user architecture code


VDD VDD GND 1.8
VSS VSS GND 0
.param VH = 10
.param VM = 5
.param VL = 1.8
.param RL = 50

.option abstol=1e-10
.option method=gear

.options savecurrents
.control
*reltol=0.1
save all
tran 300n 3000n
plot V(vboot)

*wrdata /foss/designs/Joel/LS_boot_ajustado_sky/datos.txt tran.v(net11) tran.v(vsource) tran.v(TRIG)
.endc




.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerCAP.lib cap_typ
.include sg13g2_stdcell.spice
.include diodes.lib


**** end user architecture code
.ends
.GLOBAL GND
.end
